US04420424
(B) H-Val-Tyr(But)-OBut.HCl
Pd-on-charcoal catalyst is added to a solution of 31 g (58.8 mmoles) of Z-Val-Tyr(But)-OBut in 300 ml of methanol and hydrogen is passed through the solution at pH 4.5 (autotitrator) while stirring and adding approx. 2 N methanolic hydrochloric acid, until no further methanolic hydrochloric acid is taken up. The catalyst is then filtered off and the filtrate is concentrated. The residue is triturated with ether, filtered off and dried. Yield 23.6 g (94%), melting point 159°-161°, [α]D20 =+19.4° (c=1, methanol).

reactant | Z-Val-Tyr(But)-OBut | 58.8 mmoles, 31 g | N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C30H42N2O6
reactant | hydrochloric acid | approx. 2 N | Cl | ClH
solvent | methanol | 300 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
product | H-Val-Tyr(But)-OBut.HCl | N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC(C)(C)C.Cl | InChI=1S/C22H36N2O4.ClH/c1-14(2)18(23)19(25)24-17(20(26)28-22(6,7)8)13-15-9-11-16(12-10-15)27-21(3,4)5;/h9-12,14,17-18H,13,23H2,1-8H3,(H,24,25);1H/t17-,18-;/m0./s1
